US07265246B2
Prepare a solution of 4-phenylfuran-3-carboxylic acid ethyl ester (3.9 g, 18.1 mmol) in toluene (20 mL) under nitrogen at −78° C. Add a 1.0 M solution of Diisobutyl aluminium hydride in methylene chloride (35 mL, 35.0 mmol). Stir the reaction mixture for 1 hour, quench with water, and pour into 10% Rochelle's salt (200 mL). Extract the aqueous phase with ethyl acetate (2×200 mL). Wash the organic phase with brine (100 mL), dry (Na2SO4), filter, and concentrate. Flash chromatography on silica gel eluting with 4:1 Hex/ethyl acetate to afford 2.3 g of (4-phenylfuran-3-yl)methanol. 1H NMR (CDCl3) δ 7.51-7.58 (m, 4H), 7.30-7.45 (m, 3H), 4.67 (d, J=5 Hz, 2H).

reactant | 4-phenylfuran-3-carboxylic acid ethyl ester | 18.1 mmol, 3.9 g | C(C)OC(=O)C1=COC=C1C1=CC=CC=C1 | C13H12O3
reactant | Diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methylene chloride | 35.0 mmol, 35 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (4-phenylfuran-3-yl)methanol | 2.3 g | C1(=CC=CC=C1)C=1C(=COC1)CO | C11H10O2
